US07199149B2
Part A. Hydrogen chloride gas was bubbled into a stirred suspension of trans-3-hydroxy-L-proline (25 g, 190 mmol) in MeOH (250 mL) at 0° C. for 10 min. The resulting clear solution was capped and stirred at room temperature for 6 h. It was concentrated under reduced pressure. The resulting white solids were triturated with either, filtered, and dried under vacuum to give (2S,3S)-3-hydroxy-pyrrolidine-2-carboxylic acid methyl ester hydrochloride salt (32.5 g, yield: 93.7%).

reactant | Hydrogen chloride | Cl | ClH
reactant | trans-3-hydroxy-L-proline | 190 mmol, 25 g | O[C@@H]1[C@H](NCC1)C(=O)O | C5H9NO3
reactant | MeOH | 250 mL | CO | CH4O
product | (2S,3S)-3-hydroxy-pyrrolidine-2-carboxylic acid methyl ester hydrochloride salt | 32.5 g, yield: 93.7% | Cl.COC(=O)[C@H]1NCC[C@@H]1O | InChI=1S/C6H11NO3.ClH/c1-10-6(9)5-4(8)2-3-7-5;/h4-5,7-8H,2-3H2,1H3;1H/t4-,5-;/m0./s1
